US06660744B1
A mixture of 5-benzyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolan-2-one (0.110 g, 0.00029 mol), trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.080 g, 0.000181 mol), tetrakis-(triphenylphosphine)palladium (0.012 g, 0.000011 mol) and sodium carbonate monohydrate (0.056 g, 0.00045 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-benzyl-1,3-oxazolan-2-one diacetate (0.049 g, 0.000072 mol) as a white solid.

reactant | 5-benzyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolan-2-one | 0.00029 mol, 0.110 g | C(C1=CC=CC=C1)C1CN(C(O1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H26BNO4
reactant | trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000181 mol, 0.080 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.00045 mol, 0.056 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | trans-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-benzyl-1,3-oxazolan-2-one diacetate | 0.000072 mol, 0.049 g | C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)N2C(OC(C2)CC2=CC=CC=C2)=O)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C32H38N8O2.2C2H4O2/c1-37-15-17-38(18-16-37)24-11-13-26(14-12-24)40-31-28(30(33)34-21-35-31)29(36-40)23-7-9-25(10-8-23)39-20-27(42-32(39)41)19-22-5-3-2-4-6-22;2*1-2(3)4/h2-10,21,24,26-27H,11-20H2,1H3,(H2,33,34,35);2*1H3,(H,3,4)/t24-,26-,27?;;
